US05166347
Preparation of N-cyano-N'-(2-nitroxyethyl)-2-thiophenecarboximidamide
Methyl N-cyano-2-thiophenecarboximidate (0.32 g, 1.9 mmol) was dissolved in methanol (3 ml), and 2-nitroxyethylamine nitrate (0.34 g, 2.0 mmol) and triethylamine (0.20 g, 2.0 mmol) were added. The mixture was stirred at room temperature for 17 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 25 g) eluting with ethyl acetate. The eluted fractions were concentrated under reduced pressure and crystallized from ethyl acetate-hexane to give the title compound (0.18 g, 0.77 mmol, yield: 40%) as colorless crystals.

reactant | Methyl N-cyano-2-thiophenecarboximidate | 1.9 mmol, 0.32 g | C(#N)N=C(OC)C=1SC=CC1 | C7H6N2OS
reactant | 2-nitroxyethylamine nitrate | 2.0 mmol, 0.34 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | triethylamine | 2.0 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 3 ml | CO | CH4O
product | N-cyano-N'-(2-nitroxyethyl)-2-thiophenecarboximidamide | 0.77 mmol, 0.18 g, yield: 40% | C(#N)NC(=NCCO[N+](=O)[O-])C=1SC=CC1 | C8H8N4O3S
